US07199147B2
3,4-dihydro-2H-pyran (0.84 ml, 9.21 mmol) and pyridinium p-toluenesulfonate (202 mg, 0.804 mmol) were added to a solution of 5-bromo-1H-indazole (790 mg, 4.01 mmol) in methylene chloride (15 ml) at room temperature, and the resulting mixture was refluxed for 6 hours. Then, the reaction solution was poured into a saturated aqueous sodium hydrogencarbonate solution and extracted with chloroform. The organic layer was washed with a saturated aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate=93/7) to obtain 5-bromo-1-tetrahydro-2H-pyran-2-yl-1H-indazole (1.06 g, 94%).

reactant | 3,4-dihydro-2H-pyran | 9.21 mmol, 0.84 ml | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 0.804 mmol, 202 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | 5-bromo-1H-indazole | 4.01 mmol, 790 mg | BrC=1C=C2C=NNC2=CC1 | C7H5BrN2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 5-bromo-1-tetrahydro-2H-pyran-2-yl-1H-indazole | 1.06 g, 94% | BrC=1C=C2C=NN(C2=CC1)C1OCCCC1 | C12H13BrN2O
